US09284323B2
Preparation of ethyl 2-hydroxy-2-(10-hydroxyphenanthren-9-yl)acetate:
Prepared by the similar method to make ethyl 2-(6-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate in Example 20, using phenanthren-9-ol instead of 6-bromo-3-methylnaphthalen-1-ol. 1H-NMR: 400 MHz, (CDCl3) δ: 8.90 (s, 1H), 8.66-8.62 (m, 2H), 8.40 (d, J=4.2 Hz, 1H), 7.97-7.94 (m, 1H), 7.71-7.49 (m, 4H), 6.23 (s, 1H), 4.14-4.08 (m, 2H), 3.81 (bs, 1H), 1.11 (t, J=7.4 Hz, 3H).

reactant | ethyl 2-(6-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate | BrC=1C=C2C=C(C(=C(C2=CC1)O)C(C(=O)OCC)O)C | C15H15BrO4
reactant | phenanthren-9-ol | C1=CC=CC=2C3=CC=CC=C3C(=CC12)O | C14H10O
product | ethyl 2-hydroxy-2-(10-hydroxyphenanthren-9-yl)acetate | OC(C(=O)OCC)C=1C2=CC=CC=C2C=2C=CC=CC2C1O | C18H16O4
